US04851562
Preparation of methyl-3-(p-nitrophenylcarbamoyl)benzoate
In a 1-liter 3-necked flask fitted with an inlet tube for nitrogen, a magnetic stirrer, a dropping funnel and a thermometer there were introduced 76 g (0.5 moles) of p-nitroaniline in 600 ml of dimethylacetamide and 80 ml of pyridine. (Both solvents had previously been dried over a molecular sieve 3A). Over a period of 45 minutes 99.2 g (0.5 moles) of 3-carbomethoxybenzoyl chloride in 100 ml of dimethylacetamide were added with stirring and cooling, care being taken that the temperature did not rise to above 15° C. In the process a yellow precipitate was formed. After all the ingredients had been added, stirring was continued for 1 more hour at 20° C. The reaction mixture was poured into 2 l of ice water, filtered, washed 6 times with water and finally with methanol. After drying at 70° C. and a pressure of 133 Pa 146 g of the envisaged product were obtained in a yield of 97%. The melting point was 206°-207.6° C. In an analogous manner there were prepared:

reactant | p-nitroaniline | 0.5 moles, 76 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 3-carbomethoxybenzoyl chloride | 0.5 moles, 99.2 g | C(=O)(OC)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
solvent | dimethylacetamide | 600 ml | CC(=O)N(C)C | C4H9NO
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | methyl-3-(p-nitrophenylcarbamoyl)benzoate | 146 g, yield of 97% | COC(C1=CC(=CC=C1)C(NC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C15H12N2O5
